* C:\Users\hrvoje\Documents\vsite\MJ808_cos\ltspice\graetz and zero cross.asc
V1 dynamo1 dynamo2 SINE(0 60 112)
R1 V_REGULATED_TP2-IN 0 120
D1 dynamo2 V_RECT_TP1-IN RB500SM-30
D2 0 dynamo2 RB500SM-30
D3 0 dynamo1 RB500SM-30
D4 dynamo1 V_RECT_TP1-IN RB500SM-30
C1 V_REGULATED_TP2-IN 0 4800u
D5 V_RECT_TP1-IN V_REGULATED_TP2-IN RB500SM-30
XU2 N003 N001 V_REGULATED_TP2-IN 0 N002 LT1716
V2 5V0 0 5
R3 N003 0 100k
R4 N001 dynamo1 30k
R5 N002 N003 47k
D6 0 N001 1N4148
M1 N002 5V0 ZeroCross ZeroCross NMOS
R2 V_REGULATED_TP2-IN N002 100k
R7 5V0 ZeroCross 10k
C2 V_REGULATED_TP2-IN 0 4800u
.model D D
.lib C:\Users\hrvoje\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hrvoje\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran .1
* stock dynamo: 3W, 6V: 500mA over a 12Ohm load\nwheel circumference: approx. 2m, 28 poles\n \nspeed [m/s] - speed [km/h] - freq. [Hz]\n2 - 3.6 - 56\n4 - 14.4 - 112\n6 - 21,6 - 168\n8 - 28,8 - 224\n10 - 36,0 - 280\n12 - 43.2 - 336\n14 - 50,4 - 392\n16 - 57,6 - 448\n20 - 72.7 - 560
.lib LTC1.lib
.backanno
.end
